US04857643
A solution of 2-(o-methoxyphenylthio)methyl-thiazolidine (5 g) in pyridine (25 ml) is reacted with acetylthioacetylchloride (2.93 g) for a night at room temperature, the reaction mixture is diluted with 2N H2SO4, extracted with ethylether to give after the usual work-up 3α-acetylthioacetyl-2-(o-methoxyphenylthio)methyl-thiazolidine, m.p. 62°-64° C.

reactant | 2-(o-methoxyphenylthio)methyl-thiazolidine | 5 g | COC1=C(C=CC=C1)SCC1SCCN1 | C11H15NOS2
reactant | acetylthioacetylchloride | 2.93 g | C(C)(=O)CC(=S)Cl | C4H5ClOS
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | H2SO4 | 2N | OS(=O)(=O)O | H2O4S
product | 3α-acetylthioacetyl-2-(o-methoxyphenylthio)methyl-thiazolidine | C(C)(=O)CC(=S)N1C(SCC1)CSC1=C(C=CC=C1)OC | C15H19NO2S3
